US04999356
A mixture of 5.0 g of 1-(4-fluorophenyl)-3-(1-piperazinyl)-1H-indazole, 5.1 g of nitrourea, and 80 ml of dimethylformamide was heated on a steam bath for 15 minutes. The reaction mixture was then poured into water and the resulting precipitate was recrystallized from ethyl acetate (2×) to yield 2.7 g (47%) of 4-[1-(4-fluorophenyl)-1H-indazol-3-yl]-1-piperazine carboxamide, m.p. 148°-150°.

reactant | 1-(4-fluorophenyl)-3-(1-piperazinyl)-1H-indazole | 5.0 g | FC1=CC=C(C=C1)N1N=C(C2=CC=CC=C12)N1CCNCC1 | C17H17FN4
reactant | nitrourea | 5.1 g | [N+](=O)([O-])NC(=O)N | CH3N3O3
reactant | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-[1-(4-fluorophenyl)-1H-indazol-3-yl]-1-piperazine carboxamide | 2.7 g, 47% | FC1=CC=C(C=C1)N1N=C(C2=CC=CC=C12)N1CCN(CC1)C(=O)N | C18H18FN5O
